US09023840B2
Step 1: 4-chloro-2,5-difluoro-N-[(1R)-2,2,2-trifluoro-1-methylethyl]benzamide
4-Chloro-2,5-difluorobenzoyl chloride (29.6 mg, 0.140 mmol) (Oakwood, Cat. #: 001628) was added to a solution of (2R)-1,1,1-trifluoropropan-2-amine hydrochloride (20.0 mg, 0.134 mmol) (SynQuest Lab, Cat. #: 3130-7-R1) in methylene chloride (4.0 mL) at 0° C. The reaction mixture was stirred at room temperature for 30 min., then worked up with saturated aqueous NaHCO3, and extracted with dichloromethylene. The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure to afford the desired product which was directly used in the next step reaction without further purification. LCMS (M+H)+: m/z=288.0/289.9.

reactant | 4-Chloro-2,5-difluorobenzoyl chloride | 0.140 mmol, 29.6 mg | ClC1=CC(=C(C(=O)Cl)C=C1F)F | C7H2Cl2F2O
reactant | (2R)-1,1,1-trifluoropropan-2-amine hydrochloride | 0.134 mmol, 20.0 mg | Cl.FC([C@@H](C)N)(F)F
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 4.0 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-2,5-difluoro-N-[(1R)-2,2,2-trifluoro-1-methylethyl]benzamide | ClC1=CC(=C(C(=O)N[C@@H](C(F)(F)F)C)C=C1F)F | C10H7ClF5NO
